US07816522B2
After adding 33 mg of Me3O+BF4− to a suspension of 109 mg of 4-{3-[(5-fluoro-8-methoxy-4H-benzo[1,3]dioxin-6-yl)-(4-thiocarbamoylphenylamino)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiazole-5-carboxylic acid amide in 1 ml of acetonitrile, the mixture was stirred at room temperature for 30 minutes. Next, 4 ml of isopropanol and 0.055 ml of 1,1,3,3-tetramethyldisilazane were added to the reaction mixture, which was then stirred overnight at 60° C. The reaction mixture was concentrated, and the residue was purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% acetic acid) to give 4-{3-[(4-carbamimidoylphenylamino)-(5-fluoro-8-methoxy-4H-benzo[1,3]dioxin-6-yl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiazole-5-carboxylic acid amide (36 mg).

reactant | BF4− | F[B-](F)(F)F
reactant | 4-{3-[(5-fluoro-8-methoxy-4H-benzo[1,3]dioxin-6-yl)-(4-thiocarbamoylphenylamino)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiazole-5-carboxylic acid amide | 109 mg | FC1=C(C=C(C2=C1COCO2)OC)C(C2=NN(C(N2)=O)C=2N=CSC2C(=O)N)NC2=CC=C(C=C2)C(N)=S | C23H20FN7O5S2
reactant | isopropanol | 4 ml | C(C)(C)O | C3H8O
reactant | 1,1,3,3-tetramethyldisilazane | 0.055 ml | C[SiH](N[SiH](C)C)C | C4H15NSi2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 4-{3-[(4-carbamimidoylphenylamino)-(5-fluoro-8-methoxy-4H-benzo[1,3]dioxin-6-yl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiazole-5-carboxylic acid amide | 36 mg | C(N)(=N)C1=CC=C(C=C1)NC(C1=NN(C(N1)=O)C=1N=CSC1C(=O)N)C=1C=C(C2=C(COCO2)C1F)OC | C23H21FN8O5S
